US05770624
A solution of benzyl 2(R)-[(4-methoxybenzenesulfonyl)(4-picolyl)amino]-2-(trans-4-propoxycyclohexyl)-acetate (3.0 g, 5 mmol) in ethanol (50 mL) containing 3 N hydrochloric acid (5 mL, 15 mmol) is hydrogenated at 50 psi in the presence of 5% palladium on charcoal (200 mg) at room temperature for 4 hours. The reaction mixture is filtered through celite washing with ethanol and concentrated in vacuo to provide 2(R)-[(4-methoxybenzenesulfonyl)(4-picolyl)amino]-2-(trans-4-propoxycyclohexyl) acetic acid hydrochloride as a crude product.

reactant | benzyl 2(R)-[(4-methoxybenzenesulfonyl)(4-picolyl)amino]-2-(trans-4-propoxycyclohexyl)-acetate | 5 mmol, 3.0 g | COC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)OCC1=CC=CC=C1)[C@@H]1CC[C@H](CC1)OCCC)CC1=CC=NC=C1 | C31H38N2O6S
reactant | hydrochloric acid | 15 mmol, 3 N, 5 mL | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 200 mg | [Pd] | Pd
product | 2(R)-[(4-methoxybenzenesulfonyl)(4-picolyl)amino]-2-(trans-4-propoxycyclohexyl) acetic acid hydrochloride | Cl.COC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)O)[C@@H]1CC[C@H](CC1)OCCC)CC1=CC=NC=C1 | InChI=1S/C24H32N2O6S.ClH/c1-3-16-32-21-6-4-19(5-7-21)23(24(27)28)26(17-18-12-14-25-15-13-18)33(29,30)22-10-8-20(31-2)9-11-22;/h8-15,19,21,23H,3-7,16-17H2,1-2H3,(H,27,28);1H/t19-,21-,23-;/m1./s1
